US05206240
3,4-Dihydro-6-methanesulfonamido-4-(hydroxyimino)-1'-(2-phenylethyl)-spiro[(2H)-1benzopyran-2,4'-piperidine]
In the manner of Example 427, 3,4-dihydro-6-methane-sulfonamido-1'-(2-phenylethyl)-spiro [(2H)-benzopyran-2,4'-piperidine]-4-one was treated with hydroxylamine hydrochloride to give, after chromatography, the piperidine as a solid, m.p. 95°-99° C.

reactant | 3,4-dihydro-6-methane-sulfonamido-1'-(2-phenylethyl)-spiro [(2H)-benzopyran-2,4'-piperidine]-4-one | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCN(CC3)CCC3=CC=CC=C3)O2)=O)C1 | C22H26N2O4S
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3,4-Dihydro-6-methanesulfonamido-4-(hydroxyimino)-1'-(2-phenylethyl)-spiro[(2H)-1benzopyran-2,4'-piperidine] | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCN(CC3)CCC3=CC=CC=C3)O2)=NO)C1 | C22H27N3O4S
